US06727264B1
N-[3-(4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by the procedure for 2-methyl-N-[4-(4-piperidinyl)phenyl]propanamide using tert-butyl 4-(3-aminophenyl)-1-piperidinecarboxylate and propanoyl chloride: Anal. Calcd for C14H20N2O: C, 72.2; H, 8.63; N, 12.1. found: C, 72.4; H, 8.68; N, 12.1; ESMS m/e: 233.1.

reactant | 2-methyl-N-[4-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC=C(C=C1)C1CCNCC1)C | C15H22N2O
reactant | tert-butyl 4-(3-aminophenyl)-1-piperidinecarboxylate | NC=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | propanoyl chloride | C(CC)(=O)Cl | C3H5ClO
product | N-[3-(4-PIPERIDINYL)PHENYL]PROPANAMIDE | N1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C14H20N2O
